US05047411
A mixture of 2-[2-{3-(3-ethylureido)-4-hydroxyphenyl}ethyl]pyridine (3.3 g) and polyphosphate ester (30 g) was stirred at 110° to 115° C. for one hour. To a reaction mixture was added a mixture of ethyl acetate and water and the resultant mixture was acidified to pH 1.0 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 8.0 with aqueous 20% potassium carbonate and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on silica gel. The fraction eluted with a mixture of chloroform and methanol (19:1 V/V) was collected and the solvent was evaporated in vacuo. The oily residue was crystallized from 15% hydrogen chloride-ethanol and tetrahydrofuran to give 5-[2-(2-pyridyl)ethyl]-2-ethylaminobenzoxazole dihydrochloride (0.97 g).

reactant | 2-[2-{3-(3-ethylureido)-4-hydroxyphenyl}ethyl]pyridine | 3.3 g | C(C)NC(NC=1C=C(C=CC1O)CCC1=NC=CC=C1)=O | C16H19N3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-[2-(2-pyridyl)ethyl]-2-ethylaminobenzoxazole dihydrochloride | 0.97 g | Cl.Cl.N1=C(C=CC=C1)CCC=1C=CC2=C(N=C(O2)NCC)C1 | InChI=1S/C16H17N3O.2ClH/c1-2-17-16-19-14-11-12(7-9-15(14)20-16)6-8-13-5-3-4-10-18-13;;/h3-5,7,9-11H,2,6,8H2,1H3,(H,17,19);2*1H
